US06384220B2
A solution of 2-biphenyl-4-yl-3-cyclopentylpropionic acid (300 mg, 1.02 mmol), O-benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium hexafluorophosphate (386 mg, 1.02 mmol), N,N-diisopropylethylamine (220 μL, 1.22 mmol), and 2-aminopyridine (144 mg, 1.53 mmol) in dry N,N-dimethylformamide (5 ml) was stirred at 25° C. under nitrogen for 15 h. The reaction mixture was partitioned between water and ethyl acetate, and the layers were separated. The organic layer was washed with a 1N aqueous hydrochloric acid solution, water, and a saturated aqueous sodium chloride solution. The organic layer was dried over magnesium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 2/1 hexanes/ethyl acetate) afforded 2-biphenyl-4-yl-3-cyclopentyl-N-pyridin-2-yl-propionamide (79 mg, 21%) as a white solid: mp 57-59° C.; EI-HRMS m/e calcd for C25H26NO (M+) 370.2045, found 370.2049.

reactant | 2-biphenyl-4-yl-3-cyclopentylpropionic acid | 1.02 mmol, 300 mg | C1(=CC=C(C=C1)C(C(=O)O)CC1CCCC1)C1=CC=CC=C1 | C20H22O2
reactant | O-benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 1.02 mmol, 386 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N,N-diisopropylethylamine | 1.22 mmol, 220 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-aminopyridine | 1.53 mmol, 144 mg | NC1=NC=CC=C1 | C5H6N2
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 2-biphenyl-4-yl-3-cyclopentyl-N-pyridin-2-yl-propionamide | 79 mg, 21% | C1(=CC=C(C=C1)C(C(=O)NC1=NC=CC=C1)CC1CCCC1)C1=CC=CC=C1 | C25H26N2O
